US07932271B2
[5-Bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]amine
To an ethanol (2 ml) solution of t-butyl[5-bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]carbamate (130 mg, 0.227 mmol) was added concentrated hydrochloric acid (2 ml). The resulting mixture was stirred at room temperature for 63 hours. The reaction mixture was concentrated under reduced pressure. To the residue thus obtained was added saturated sodium bicarbonate, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was recrystallized from hexane:ethyl acetate to give the title compound (72 mg, 0.152 mmol, 67%) as a pale yellow powder.

reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | t-butyl[5-bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]carbamate | 0.227 mmol, 130 mg | C(C)(C)(C)OC(NC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)Br)=O | C23H20BrClF2N2O4S
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [5-Bromo-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]amine | 0.152 mmol, 72 mg, 67% | BrC=1C(=CC(=NC1)N)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C18H12BrClF2N2O2S
